US06388004B1
Preparation of 2,5-diethyl-2,5-dimethylimidazolidin-4-thione
The thione can be purified by column chromatography on silica gel using hexane to elute an odorous fraction before the thione. The effect of variation of temperature and concentration of the reactants on yield and reaction rate was examined in a sealed NMR tube using D20 as a solvent and sodium tosylate as an internal standard. What was observed was a smooth decrease in concentration of starting materials and smooth increase in concentration of product. The reaction time can be reduced from 16 hours at 50° C. to 6 hours at 80° C. The compound, 2-methyl-2-aminobutyrothioamide, was not observed indicating that this alicyclic intermediate reacts with MEK in a fast step to yield the cyclic product

reactant | sodium tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1.[Na+]
reactant | 2-methyl-2-aminobutyrothioamide | CC(C(N)=S)(CC)N | C5H12N2S
solvent | MEK | CCC(=O)C | C4H8O
product | 2,5-diethyl-2,5-dimethylimidazolidin-4-thione | C(C)C1(NC(C(N1)=S)(C)CC)C | C9H18N2S
